US06706703B2
3,5-Dimethoxyphenylboronic Acid
Under argon, to anhydrous tetrahydrofuran (9.0 mL) stirred in a dry ice-methanol bath was gradually added a 1.57 M solution of n-butyllithium in hexane (3.9 mL, 5.9 mmol), followed by the dropwise addition of a solution of 3,5-dimethoxyiodobenzene (713.0 mg, 2.70 mmol) in anhydrous tetrahydrofuran (5.0 mL). After the mixture was stirred for 20 minutes in the dry ice-methanol bath, triisopropyl borate (0.75 mL, 3.2 mmol) was added and the mixture was additionally stirred for 20 minutes. The reaction mixture was stirred at room temperature for 1 hour and concentrated under reduced pressure, then a 1.0 M aqueous sodium hydroxide (7.0 mL) was added to the residue. The resulting aqueous solution was washed with chloroform, acidified by adding concentrated hydrochloric acid, and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was recrystallized from chloroform-hexane to yield the title compound as a colorless crystalline powder (melting point: 159.0-161.0° C.)(367.0 mg, yield: 91%).

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 5.9 mmol, 3.9 mL | CCCCCC | C6H14
reactant | 3,5-dimethoxyiodobenzene | 2.70 mmol, 713.0 mg | COC=1C=C(C=C(C1)OC)I | C8H9IO2
reactant | dry ice methanol | C(=O)=O.CO
reactant | triisopropyl borate | 3.2 mmol, 0.75 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.0 mL | O1CCCC1 | C4H8O
product | 3,5-Dimethoxyphenylboronic Acid | 367.0 mg, yield: 91% | COC=1C=C(C=C(C1)OC)B(O)O | C8H11BO4
